US09216964B2
To a solution of 2-(2-chloro-5-nitrophenyl)-5-phenyl-1H-imidazole (27 g, 90.3 mmol) in EtOH (200 ml) is added 5 nCl2.2H2O (71 g, 316 mmol). The mixture is refluxed for 2 hours, cooled to room temperature and then concentrated. Ethyl acetate (200 ml) and NaOH (25 g in 100 ml water) are added to the residue and the mixture is stirred for 10 minutes at room temperature. The solid is removed by filtering through celite pad. The filtrate is separated and the organic layer is further washed with brine, dried over anhydrous MgSO4 and concentrated. The crude product is purified by silica gel flash chromatography, eluted with 40% ethyl acetate in dichloromethane to afford 4-Chloro-3-(5-phenyl-1H-imidazol-2-yl) aniline as a brown solid. LC-MS m/z: 270.1 (M+1).

reactant | 2-(2-chloro-5-nitrophenyl)-5-phenyl-1H-imidazole | 90.3 mmol, 27 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])C=1NC(=CN1)C1=CC=CC=C1 | C15H10ClN3O2
solvent | EtOH | 200 ml | CCO | C2H6O
product | 4-Chloro-3-(5-phenyl-1H-imidazol-2-yl) aniline | ClC1=C(C=C(N)C=C1)C=1NC(=CN1)C1=CC=CC=C1 | C15H12ClN3
